US03983151
4-Hydroxy-3-methoxyphenylacetonitrile
160.8 g of N-methylvanillylamine and 54 g of sodium cyanide are suspended in 1 liter of dimethylsulphoxide and dissolved by heating to 125°C. At this temperature, a solution of 100 ml of glacial acetic acid in 200 ml of water is added and the mixture is stirred for a further 2 hours under nitrogen at 125°C. It then cooled to 80°C and the dimethylsulphoxide is distilled off in a water-pump vacuum. 900 ml of water are added to the residue which is extracted with 350 ml of chloroform. The chloroform phase is extracted by shaking with water and dried with sodium sulphate. On distilling off the chloroform in vacuo, an oil is obtained, which is cooled and seeded. The crystals formed melt at 53°-54°C (boiling point0.1 :140°-144°C). The yield is 143 g (94% of theory).

reactant | N-methylvanillylamine | 160.8 g | CNCC1=CC(OC)=C(O)C=C1 | C9H13NO2
reactant | sodium cyanide | 54 g | [C-]#N.[Na+]
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | dimethylsulphoxide | 1 liter | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 4-Hydroxy-3-methoxyphenylacetonitrile | OC1=C(C=C(C=C1)CC#N)OC | C9H9NO2
